US05039759
Preparation of N-Methyl-N'-Butyl Urea
280.32 Grams (3.84 moles) of butylamine and 300 ml of dichloromethane were charged to a round bottom flask equipped with stirrer, cold bath, thermometer, addition funnel and reflux condenser. 229.8 Grams (4.03 Moles, a 5% excess) of methyl isocyanate were charged to the addition funnel and added to the flask contents over four hours keeping the contents between 0° and 35° C. After an additional hour of stirring the exothermic reaction subsided and the mixture was allowed to stand overnight.

reactant | butylamine | 3.84 moles | C(CCC)N | C4H11N
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-Methyl-N'-Butyl Urea | CNC(=O)NCCCC | C6H14N2O
